US07435837B2
(±)-{[7-fluoro-5-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.12 g, 96%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-fluoro-5-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.18 g, 0.43 mmol) and methylamine (0.27 g, 8.6 mmol). mp >250° C.

reactant | (±)-[7-fluoro-5-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.43 mmol, 0.18 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2F)C2=CC=C(C=C2)F | C22H18F2O4S
reactant | methylamine | 8.6 mmol, 0.27 g | CN | CH5N
product | (±)-{[7-fluoro-5-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=CC(=CC=2CC(OC21)CNC)C2=CC=C(C=C2)F | C16H15F2NO
